US07465815B2
To a suspension of aluminum chloride (1.23 g, 9.25 mmol) in THF (40 mL) was slowly added lithium aluminium hydride (354 mg, 9.31 mmol) with ice-cooling, and the mixture was stirred at the same temperature for 10 minutes. To this mixture was added N-(3-(4-isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)-4-methoxyphenylacetamide obtained in Reference Example 365 (536 mg, 1.14 mmol), and the mixture was heated under reflux for 3 hours. The reaction mixture was added to ice-water, and the mixture was neutralized with a 8 N aqueous sodium hydroxide solution. Thereafter, the product was twice extracted with ethyl acetate, and the combined organic layer was washed with water, dried over magnesium sulfate, filtered and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=3:1) to obtain 3-(4-isopropylphenyl)-N-(2-(4-methoxyphenyl)ethyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-amine. This compound (537.9 mg, 1.18 mmol) was added to a suspension of sodium hydride (a 60% paraffin dispersion, 232.1 mg, 5.80 mmol) in DMF (25 mL) at 60° C., and the mixture was stirred for 20 minutes. Acetyl chloride (0.5 mL, 7.03 mmol) was added thereto, and the mixture was stirred at the same temperature for 1 hour. The reaction mixture was cooled to room temperature, and a saturated sodium hydrogen carbonate solution was added to the mixture, which was twice extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate, filtered and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=3:1) to obtain the rotational isomer of the object compound (Rf=0.38; hexane:ethyl acetate=3:1) (yield 43%). Melting point: 134-136° C. (ethyl acetate-hexane).

reactant | aluminum chloride | 9.25 mmol, 1.23 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | lithium aluminium hydride | 9.31 mmol, 354 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | N-(3-(4-isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)-4-methoxyphenylacetamide | C(C)(C)C1=CC=C(C=C1)C1C(OC2=C1C(=C(C(=C2C)C)NC(CC2=CC=C(C=C2)OC)=O)C)(C)C | C31H37NO3
reactant | sodium hydroxide | 8 N | [OH-].[Na+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 3-(4-isopropylphenyl)-N-(2-(4-methoxyphenyl)ethyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-amine | yield 43% | C(C)(C)C1=CC=C(C=C1)C1C(OC2=C1C(=C(C(=C2C)C)NCCC2=CC=C(C=C2)OC)C)(C)C | C31H39NO2
